US07183287B2
Step 1: Preparation of Methyl 3-({(1Z)-1-[(2-naphthylmethyl)thio]ethylidene}amino)-3-oxopropanoate
To a suspension of 2-naphthylmethyl ethanimidothioate hydrobromide (3.0 g, 0.01 mol) in THF (20.0 mL) at 0° C., is added N-methylmorpholine (2.4 mL. 0.022 mol), followed by the dropwise addition of a solution of methyl malonyl chloride (1.2 mL, 0.011 mol) in THF (5.0 mL). The resulting mixture is stirred at 0° C. for 30 min, and at room temperature for an additional 30 min. The mixture is diluted with cold water, (25 mL) and extracted with dichloromethane (2×20 mL). The combined organic extracts are washed with water, dried (Na2SO4), filtered and concentrated to dryness under reduced pressure to give a yellow syrup, which is purified by flash chromatography using 25% EtOAc in hexanes to give the title compound (1.9 g, 59%) as colorless syrup: ES-HR MS m/z 316.0993(M+H calcd for C17H18NO3SN requires 316.1002).

reactant | 2-naphthylmethyl ethanimidothioate hydrobromide | 0.01 mol, 3.0 g | Br.C(C)(=N)SCC1=CC2=CC=CC=C2C=C1
reactant | N-methylmorpholine | 0.022 mol, 2.4 mL | CN1CCOCC1 | C5H11NO
reactant | methyl malonyl chloride | 0.011 mol, 1.2 mL | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | THF | 20.0 mL | C1CCOC1 | C4H8O
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | Methyl 3-({(1Z)-1-[(2-naphthylmethyl)thio]ethylidene}amino)-3-oxopropanoate | 1.9 g, 59% | C1=C(C=CC2=CC=CC=C12)CS\C(\C)=N/C(CC(=O)OC)=O | C17H17NO3S
